US06002008
4-(3-Bromophenylamino)-6,7-di-n-propoxy-3-quinolinecarbonitrile
To a stirred mixture of 4(3-bromophenylamino)-6,7-dihydroxy-3-quinolinecarbonitrile (1.07 g, 3.0 mmol), potassium carbonate (1.66 g, 12.0 mmol), and 12 ml of DMF at 0° C. was added 1-iodopropane (1.17 ml, 12.0 mmol). The mixture was warmed to 25° C., stirred for 5 h, and then partioned at 0° C. with ethyl acetate and water containing HCl to give pH-8. The organic layer was separated, washed with water, dried, and concentrated. The residue was subjected to chromatography on silica gel with methylene chloride-ethyl acetate-acetic acid to give an amorphous solid; mass spectrum (electrospray, m/e) M+H 440.2, 442.2.

reactant | 4(3-bromophenylamino)-6,7-dihydroxy-3-quinolinecarbonitrile | 3.0 mmol, 1.07 g | BrC=1C=C(C=CC1)NC1=C(C=NC2=CC(=C(C=C12)O)O)C#N | C16H10BrN3O2
reactant | potassium carbonate | 12.0 mmol, 1.66 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-iodopropane | 12.0 mmol, 1.17 ml | ICCC | C3H7I
reactant | HCl | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
product | 4-(3-Bromophenylamino)-6,7-di-n-propoxy-3-quinolinecarbonitrile | BrC=1C=C(C=CC1)NC1=C(C=NC2=CC(=C(C=C12)OCCC)OCCC)C#N | C22H22BrN3O2
